US06040309
Ethyl 3-(phenoxy)-6-(3-pyridylmethoxy)benzo[b]thiophen-2-carboxylate
Phenol (108 mg, 1.15 mmol) was added to a stirred suspension of sodium hydride (46 mg of 60% dispersion in mineral oil, 1.15 mmol) in anhydrous dimethylformamide (1 ml), under a nitrogen atmosphere. Ethyl 3-chloro-6-(3-pyridylmethoxy)benzo[b]thiophene-2-carboxylate (Preparation 4, 200 mg, 0.58 mmol) was added to the mixture after 30 minutes, and the mixture was then heated to 75° C. for 48 hours. The reaction was partitioned between ethyl acetate and water. The organics were separated and washed with water, dried (magnesium sulfate) and evaporated under reduced pressure. The residue was flash chromatographed on silica gel using diethyl ether as eluant. The isolated product was crystallised from hexane to give the title compound as a colourless solid (40 mg).

reactant | Phenol | 1.15 mmol, 108 mg | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 1.15 mmol, 46 mg | [H-].[Na+]
reactant | Ethyl 3-chloro-6-(3-pyridylmethoxy)benzo[b]thiophene-2-carboxylate | 0.58 mmol, 200 mg | ClC=1C2=C(SC1C(=O)OCC)C=C(C=C2)OCC=2C=NC=CC2 | C17H14ClNO3S
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-(phenoxy)-6-(3-pyridylmethoxy)benzo[b]thiophen-2-carboxylate | 40 mg | O(C1=CC=CC=C1)C=1C2=C(SC1C(=O)OCC)C=C(C=C2)OCC=2C=NC=CC2 | C23H19NO4S
